US07705025B2
[4-(4-Methyl-thiophen-2-yl)-phenyl]-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure Q starting from 4-Methyl-2-thiophene boronic acid and 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide to give 70 mg (67%). MS (ES+) 355.2

reactant | 4-Methyl-2-thiophene boronic acid | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide | N1(CCCC1)CC1N(CCC1)C(=O)C1=CC=C(C=C1)Br | C16H21BrN2O
product | [4-(4-Methyl-thiophen-2-yl)-phenyl]-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | CC=1C=C(SC1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H26N2OS
